US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(piperazin-1-yl)quinoxaline-6-carboxylate (180 mg, 0.49 mmol) in dichloromethane (10 ml) was added Et3N (200 mg, 2 mmol) followed by benzoyl chloride (170 mg, 1.18 mmol) dropwise. The resulting solution was stirred for 1 hour at room temperature and then quenched by the addition of ice-water (150 ml) and extracted with dichloromethane (3×30 ml). The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford methyl 3-(4-benzoylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid (130 mg, 56%).

reactant | methyl 2-(4-fluorophenyl)-3-(piperazin-1-yl)quinoxaline-6-carboxylate | 0.49 mmol, 180 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCNCC1)C(=O)OC | C20H19FN4O2
reactant | Et3N | 2 mmol, 200 mg | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 1.18 mmol, 170 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 3-(4-benzoylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 130 mg, 56% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C27H23FN4O3
